US07696200B2
A solution of 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo-[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester (0.91 g, 1.72 mmol) in tetrahydrofuran (10 mL) and methanol (10 mL) was treated with 3N NaOH (5 mL, 15 mmol, 8.7 equiv.). The mixture was stirred at 45° C. for 30′. The mixture was then acidified with HCl 3N (5 mL) and the solid which precipitated was filtered, washing with water, and dried under high vacuum. 4-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid was obtained as a white solid, 0.85 g (98%). MS (ISP): m/e=501.0 (M−H); δH (300 MHz; d6-DMSO) 12.65 (1H, s), 10.35 (1H, s), 8.05 (1H, d), 7.81-7.88 (5H, m), 7.66-7.71 (2H, m), 7.19 (1H, d), 6.98 (1H, d), 3.96 (2H, m), 3.85 (2H, m), 3.53 (3H, s).

reactant | 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo-[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester | 1.72 mmol, 0.91 g | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)=O | C25H23ClN2O7S
reactant | NaOH | 15 mmol, 3N, 5 mL, 8.7 equiv. | [OH-].[Na+]
reactant | HCl | 3N, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 4-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)NC2=CC=C(C(=O)O)C=C2)OC | C23H19ClN2O7S
